US08580781B2
Preparation of 6-(4-methanesulfonylphenyl)-2-[3-(5-piperazin-1-yl-pyrimidin-2-yl)benzyl]-2H-pyridazin-3-one (“A289”)
53.3 1.4 g (3.23 mmol) of 2-[3-(5-aminopyrimidin-2-yl)benzyl]-6-(4-methanesulfonylphenyl)-2H-pyridazin-3-one are dissolved in 30 ml of NMP, and 1.59 g (8.72 mmol) of bis(2-chloroethyl)ethylamine hydrochloride and 1.22 g (8.72 mmol) of potassium carbonate are added. The suspension is stirred at 130° C. for 5 days under an argon atmosphere. The reaction mixture is filtered, and the filtrate is stirred into 200 ml of diethyl ether. An oily residue deposits in the process. The residue is purified by means of column chromatography on silica gel. The resultant product is purified by means of preparative HPLC; yield: 41 mg of “A289” trifluoroacetate; HPLC: Rt=2.19 min (method C); LC-MS: 503 (M+H).

reactant | 2-[3-(5-aminopyrimidin-2-yl)benzyl]-6-(4-methanesulfonylphenyl)-2H-pyridazin-3-one | NC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C2=CC=C(C=C2)S(=O)(=O)C)C=CC1 | C22H19N5O3S
reactant | bis(2-chloroethyl)ethylamine hydrochloride | 8.72 mmol, 1.59 g | Cl.ClCCN(CC)CCCl
reactant | potassium carbonate | 8.72 mmol, 1.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 30 ml | CN1CCCC1=O | C5H9NO
product | 6-(4-methanesulfonylphenyl)-2-[3-(5-piperazin-1-yl-pyrimidin-2-yl)benzyl]-2H-pyridazin-3-one | CS(=O)(=O)C1=CC=C(C=C1)C=1C=CC(N(N1)CC1=CC(=CC=C1)C1=NC=C(C=N1)N1CCNCC1)=O | C26H26N6O3S
